US06121308
d. 2-[(4-Amidinophenyl)-acetyl]-7-(quinoline-8-sulphonylamino)-1,2,3,4-tetrahydro-isoquinoline-hydrochloride
Prepared analogously to Example 1e from 2-[(4-cyanophenyl)-acetyl]-7-(quinoline-8-sulphonylamino)-1,2,3,4-tetrahydro-isoquinoline and hydrochloric acid/ammonium carbonate in ethanol.

reactant | 2-[(4-cyanophenyl)-acetyl]-7-(quinoline-8-sulphonylamino)-1,2,3,4-tetrahydro-isoquinoline | C(#N)C1=CC=C(C=C1)CC(=O)N1CC2=CC(=CC=C2CC1)NS(=O)(=O)C=1C=CC=C2C=CC=NC12 | C27H22N4O3S
reactant | hydrochloric acid ammonium carbonate | Cl.C([O-])([O-])=O.[NH4+].[NH4+]
solvent | ethanol | C(C)O | C2H6O
product | 2-[(4-Amidinophenyl)-acetyl]-7-(quinoline-8-sulphonylamino)-1,2,3,4-tetrahydro-isoquinoline-hydrochloride | Cl.C(N)(=N)C1=CC=C(C=C1)CC(=O)N1CC2=CC(=CC=C2CC1)NS(=O)(=O)C=1C=CC=C2C=CC=NC12 | InChI=1S/C27H25N5O3S.ClH/c28-27(29)21-8-6-18(7-9-21)15-25(33)32-14-12-19-10-11-23(16-22(19)17-32)31-36(34,35)24-5-1-3-20-4-2-13-30-26(20)24;/h1-11,13,16,31H,12,14-15,17H2,(H3,28,29);1H
